US07125896B2
b) 4-(5-Iodo-pyridin-2-yl)morpholine
Prepared from 2-chloro-5-iodopyridine and morpholine by the method of Example 9 (d).

reactant | 2-chloro-5-iodopyridine | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(5-Iodo-pyridin-2-yl)morpholine | IC=1C=CC(=NC1)N1CCOCC1 | C9H11IN2O
